US06093710
To a mixture of 6-cyano-2,3-dihydrothieno[2,3-b][1,4]-thiazine (0.3 g) and triethylamine (0.46 ml) in dichloromethane (10 ml) was dropwise added acetyl chloride (0.23ml). After stirring for 5 hours at room temperature, the reaction mixture was poured into a mixture of ethyl acetate and water. The organic layer was successively washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was pulverized from diisopropyl ether to give 1-acetyl-6-cyano-2,3-dihydrothieno-[2,3-b][1,4]thiazine (0.33 g).

reactant | 6-cyano-2,3-dihydrothieno[2,3-b][1,4]-thiazine | 0.3 g | C(#N)C1=CC2=C(SCCN2)S1 | C7H6N2S2
reactant | triethylamine | 0.46 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.23ml | C(C)(=O)Cl | C2H3ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-acetyl-6-cyano-2,3-dihydrothieno-[2,3-b][1,4]thiazine | 0.33 g | C(C)(=O)N1C2=C(SCC1)SC(=C2)C#N | C9H8N2OS2
